Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([C:4]#[C:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2]#[C:4][C:5]([H:7])([H:8])[H:9].[C:3]#[C:6],4.96927446573
[H:4].[O:1]=[C:2]=[C:3][O:5][C:6][H:7]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],-4.89535020219
[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-2.36646734753
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1],3.93403393865
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.20803193377
[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],1.2097996329
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:1]([C:2]([H:3])([H:4])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13])([H:6])[H:7].[C:5],3.9434269078300006
[C:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-8.247719598989999
[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.52169744809
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-4.07861056741
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-5.38575326326
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:4],4.94854760501
[C:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.0416408143801
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2](=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8])=[O:12].[O:1]([C:9]([H:10])[H:11])[H:13],1.62812215904
[H:11].[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.13188427085
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.93668877596
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.73854423188
[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.97132800497
[C:1]#[C:2][H:3].[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.15589555197
[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7817758116900002
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.5959048078
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.61083794217
[C:5]([H:6])[O:7][C:8]([H:9])=[C:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11],-1.5754808956
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]=[O:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]1([H:10])[C:11][O:12]1,2.62936528281
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.69374997928
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8][H:9],4.99825782218
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][C:4]#[C:5][H:6]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.42358075872
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:10][H:11])=[C:12]([H:13])[H:14].[H:9],1.6046682570700002
